US08097610B2
A mixture of {3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl}acetonitrile (0.35 g; 0.914 mmol), concentrated sulfuric acid (2 ml) and water (2 ml) was stirred at 80° C. for 2 hours. After air cooling, 5N-aqueous sodium hydroxide was added thereto to be alkaline. Ethyl acetate was added thereto and back-extracted. The water layer became neutral with 2N-aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure to give 3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl acetic acid as colorless amorphous solid (0.08 g; 22%).

reactant | {3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl}acetonitrile | 0.914 mmol, 0.35 g | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=CC2)CC#N)C=C1 | C20H19ClN4S
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl acetic acid | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=CC2)CC(=O)O)C=C1 | C20H20ClN3O2S
